US07196102B2
Step 3) 1-Quinolin-8-yl-ethylamine:
The title compound was prepared by the same procedure for preparing 1-pyridin-3-yl-ethylamine from 1-quinolin-8-yl-ethanone (1.71 g, 10 mmol), 2 M ammonia solution in methyl alcohol, acetic acid (25 mL, 50 mmol, Aldrich) and sodium cyanoborohydride (2.5 g, 40 mmol, Aldrich). The title compound was purified by column chromatography (silica gel, ethyl acetate) in form as light yellow solid in 98% yield (1.68 g, 9.8 mmol). MS (ESI, pos. ion) m/z: 173.2 (M+1); MS (ESI, neg. ion) m/z: 171.0 (M−1).

reactant | 1-pyridin-3-yl-ethylamine | N1=CC(=CC=C1)C(C)N | C7H10N2
reactant | 1-quinolin-8-yl-ethanone | 10 mmol, 1.71 g | N1=CC=CC2=CC=CC(=C12)C(C)=O | C11H9NO
reactant | ammonia | 2 M | N | H3N
reactant | acetic acid | 50 mmol, 25 mL | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 40 mmol, 2.5 g | C(#N)[BH3-].[Na+]
solvent | methyl alcohol | CO | CH4O
product | 1-Quinolin-8-yl-ethylamine | 98% yield | N1=CC=CC2=CC=CC(=C12)C(C)N | C11H12N2
